US06613786B2
A solution of (3,4,5-tribromothiophen-2-yl)-oxo-acetic acid ethyl ester (0.4 g, 0.95 mmol) in acetone (10 ml), water (2 ml), and conc. HCl (8 ml) was stirred under reflux for 1.5 hours. The reaction mixture was allowed to cool to ambient temperature and concentrated in vacuo to remove acetone which gave rise to solids which were collected, washed with water and dried. (3,4,5-tribromothiophen-2-yl)-oxo-acetic acid was thus obtained as a light yellow solid (0.17 g, 49%). MS (M−H)−: 392.75; 13C NMR (75 MHz, CDCl3) δ124.19, 117.80, 113.26, 111.72. IR (KBr) cm−1 3477.9, 3107.1, 2922.5, 1715.9, 1681.5, 1666.0, 1484.5, 1306.5, 1268.9.

reactant | (3,4,5-tribromothiophen-2-yl)-oxo-acetic acid ethyl ester | 0.95 mmol, 0.4 g | C(C)OC(C(=O)C=1SC(=C(C1Br)Br)Br)=O | C8H5Br3O3S
reactant | HCl | 8 ml | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 2 ml | O | H2O
product | (3,4,5-tribromothiophen-2-yl)-oxo-acetic acid | BrC1=C(SC(=C1Br)Br)C(C(=O)O)=O | C6HBr3O3S
